US07488740B2
6. 4-Hydroxy-7-(3-trifluoromethyl-pyridin-2-yl)-1H-quinolin-2-one
Heat a solution of 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzoic acid methyl ester (296 mg, 1.0 mmol) and acetic acid (1 mL) in dioxane (2 mL) at 60° C. for 3 hours. Cool the mixture, add water (1 mL) and evaporate to dryness. Dissolve the solid in THF (4 mL) and add drop wise to a solution of potassium bis(trimethylsilyl)amide (600 mg, 3.0 mmol) in toluene (6 mL) at −78° C. Allow the reaction to return to room temperature overnight. Add water (10 mL) and extract with ethyl acetate. Acidify the aqueous layer with hydrochloric acid and collect the precipitate by filtration. Air-dry to give the title compound.

reactant | 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzoic acid methyl ester | 1.0 mmol, 296 mg | COC(C1=C(C=C(C=C1)C1=NC=CC=C1C(F)(F)F)N)=O | C14H11F3N2O2
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | water | 1 mL | O | H2O
reactant | potassium bis(trimethylsilyl)amide | 3.0 mmol, 600 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Hydroxy-7-(3-trifluoromethyl-pyridin-2-yl)-1H-quinolin-2-one | OC1=CC(NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F)=O | C15H9F3N2O2
